### PR TITLE
feat: recipe for logical fragments and multiplicative linear logic

### PR DESCRIPTION
**Pull request by fmontesi**
This PR:
- Adds multiplicative linear logic (MLL) as an example of how a fragment can be derived from a larger inference system (CLL), using Subtype and local recursive functions to eliminate irrelevant cases (see the example in the docstring).
- Puts CLL under the right `Cslib.Logic` namespace.
- Shortens a few simple definitions for CLL in the expected way.

### CODE REVIEW

**Review by thomaskwaring — APPROVED** [review]
This all looks very reasonable to me, it would be nice of course to see some theorems stress-testing the definitions, but that can happen down the track.

One suggestion (for here or in a follow-up) would be to define a custom cases / induction  principle for, say, `MLL.Proposition` — it would package up the process of unpacking the predicate and discharging unreachable cases, and might be a more idiomatic way to set up an API boundary.

File: Cslib/Logics/LinearLogic/CLL/Basic.lean [hunk 1]
```diff
@@ -299,32 +279,32 @@ namespace Proposition
...
-@[symm, scoped grind →]
+@[symm]
 theorem Equiv.symm {a b : Proposition Atom} (h : a ≡ b) : b ≡ a := ⟨h.2, h.1⟩
 
 /-- Proof-irrelevant equivalence is transitive. -/
-@[scoped grind →]
 theorem Equiv.trans {a b c : Proposition Atom} (hab : a ≡ b) (hbc : b ≡ c) : a ≡ c :=
   equiv.trans (chooseEquiv hab) (chooseEquiv hbc)
 
+scoped grind_pattern Equiv.trans => a ≡ b, b ≡ c
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/Basic.lean:306]: This seems to be the same pattern as the removed annotation?

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+namespace Cslib.Logic.CLL
+
+/-- A proposition is in the multiplicative fragment of CLL. -/
+@[simp]
+def Proposition.IsMLL : Proposition Atom → Prop
+  | atom _ | atomDual _ | one | bot => True
+  | top | zero => False
+  | tensor a b | parr a b => a.IsMLL ∧ b.IsMLL
+  | oplus _ _ | .with _ _ => False
+  | bang _ | quest _ => False
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: Easier to read?

```suggestion
  | atom _ | atomDual _ | one | bot => True
  | tensor a b | parr a b => a.IsMLL ∧ b.IsMLL
  | _ => False
```

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 3]
```diff
@@ -0,0 +1,143 @@
...
+
+/-- Duality in MLL stays in MLL. -/
+@[scoped grind →]
+theorem Proposition.isMLL_dual {a : Proposition Atom} (ha : a.IsMLL) : a⫠.IsMLL := by
+  induction a <;> grind only [Proposition.dual, IsMLL]
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: The squeeze is not needed here, and let's be explicit about when we do or don't need the dual:

```suggestion
  induction a with
  | atom | atomDual | one | bot | tensor | parr => grind [dual, IsMLL]
  | _ => grind [IsMLL]
```

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+def Proposition.Context.IsMLL : Context Atom → Prop
+  | hole => True
+  | tensorL a b | tensorR a b | parrL a b | parrR a b => a.IsMLL ∧ b.IsMLL
+  | _ => False
+
+/-- Filling a multiplicative propositional context with a multiplicative proposition stays in MLL.
+-/
+theorem Proposition.Context.isMLL_fill {c : CLL.Proposition.Context Atom} {a : CLL.Proposition Atom}
+    (hc : c.IsMLL) : (c.fill a).IsMLL ↔ a.IsMLL := by induction c <;>
+      grind only [Context.fill, Proposition.IsMLL, Proposition.Context.IsMLL]
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: In general, the consensus is that you shouldn't construct a `induction <;> grind [...]` by taking the union of all the parameters used in each branch of the proof. I'd write:
   
```suggestion
    (hc : c.IsMLL) : (c.fill a).IsMLL ↔ a.IsMLL := by
  induction c with
  | hole => grind [fill]
  | tensorL | tensorR | parrL | parrR => grind [fill, IsMLL, Proposition.IsMLL]
  | _ => grind [IsMLL]
```

**Comment by fmontesi** [comment]
@thomaskwaring 
I think that's a very good idea, I'll experiment with it when I find a moment.

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 5]
```diff
@@ -0,0 +1,143 @@
...
+open scoped Logic.InferenceSystem
+
+/-- A proof is in MLL. -/
+@[simp]
+def Proof.IsMLL {Γ : Sequent Atom} : ⇓Γ → Prop
+  | ax (a := a) => a.IsMLL
+  | cut p q | tensor p q => p.IsMLL ∧ q.IsMLL
+  | one => True
+  | bot p | parr p => p.IsMLL
+  | _ => False
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: I had no idea you could use do a pattern match with named paramaters like this. If you'd like, this can be combined with some below cases

```suggestion
  | ax (a := a) | bot a | parr a => a.IsMLL
  | cut p q | tensor p q => p.IsMLL ∧ q.IsMLL
  | one => True
  | _ => False
```

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 6]
```diff
@@ -0,0 +1,143 @@
...
+    grind [Proof.IsMLL, Multiset.insert_eq_cons, Multiset.mem_singleton]
+  case one =>
+    simp [Sequent.IsMLL, Proposition.IsMLL]
+  case parr | tensor | cut => grind [Proposition.IsMLL, Proof.IsMLL]
+  case bot Γ p ih =>
+    simp only [Proof.IsMLL] at hp
+    simp only [Sequent.IsMLL, Multiset.mem_cons, forall_eq_or_imp]
+    apply And.intro
+    · simp only [Proposition.IsMLL]
+    · grind only [Sequent.IsMLL]
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: This can be

```suggestion
    simp
    grind [Proof.IsMLL]
```
without any issues I can see.

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 7]
```diff
@@ -0,0 +1,143 @@
...
+/-- MLL sequents. -/
+abbrev Sequent (Atom : Type u) := {Γ : CLL.Sequent Atom // Γ.IsMLL}
+
+/-- MLL derivations. -/
+abbrev Proof {Atom : Type u} (Γ : Sequent Atom) := {p : CLL.Proof (Atom := Atom) Γ // p.IsMLL}
+
+/-- The sequent calculus of MLL. -/
+instance : Logic.InferenceSystem (Sequent Atom) := ⟨Proof⟩
+
+open scoped Logic.InferenceSystem
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: Why this open with no code following it?

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 8]
```diff
@@ -0,0 +1,143 @@
...
+
+namespace Cslib.Logic.MLL
+
+/-- MLL propositions. -/
+abbrev Proposition (Atom : Type u) := {a : CLL.Proposition Atom // a.IsMLL}
+
+/-- MLL propositional contexts. -/
+abbrev Proposition.Context (Atom : Type u) := {c : CLL.Proposition.Context Atom // c.IsMLL}
+
+open scoped CLL.Proposition CLL.Proposition.Context in
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: What is this `open scoped` for?

File: Cslib/Logics/LinearLogic/CLL/MLL.lean [hunk 9]
```diff
@@ -0,0 +1,143 @@
...
+/-- Filling of an MLL propositional context. -/
+def Proposition.Context.fill (c : MLL.Proposition.Context Atom) (a : MLL.Proposition Atom) :
+    MLL.Proposition Atom :=
+  ⟨CLL.Proposition.Context.fill c a, (CLL.Proposition.Context.isMLL_fill c.property).2 a.property⟩
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/MLL.lean]: I might try to make this a bit more readable with a few formatting changes:

```suggestion
def Proposition.Context.fill (c : Proposition.Context Atom) (a : Proposition Atom) :
    Proposition Atom where
  val := CLL.Proposition.Context.fill c a
  property := (CLL.Proposition.Context.isMLL_fill c.property).mpr a.property
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
A few small style questions. The removal of `grind` lints seems nice here too.

File: Cslib/Logics/LinearLogic/CLL/Basic.lean (hunk 1 above)
Comment (fmontesi) [reply Cslib/Logics/LinearLogic/CLL/Basic.lean:306]: Was it so smart already? I didn't check because I realised this is what they recommend in the grind documentation and I just switched. We can revert it I guess.

File: Cslib/Logics/LinearLogic/CLL/MLL.lean (hunk 7 above)
Comment (fmontesi) [reply Cslib/Logics/LinearLogic/CLL/MLL.lean]: Whoops, leftover, my bad. :)

File: Cslib/Logics/LinearLogic/CLL/MLL.lean (hunk 8 above)
Comment (fmontesi) [reply Cslib/Logics/LinearLogic/CLL/MLL.lean]: grind :-)

Comment (chenson2018) [reply Cslib/Logics/LinearLogic/CLL/MLL.lean]: I'm not understanding, I don't see `grind` used anywhere in this definition? It seems fine without it.

File: Cslib/Logics/LinearLogic/CLL/Basic.lean (hunk 1 above)
Comment (chenson2018) [reply Cslib/Logics/LinearLogic/CLL/Basic.lean:306]: Yes if you look at the output of `@[grind?]`, it shows (in a somewhat difficult to read format...) the same pattern. I have a slight preference for `grind →` for readability, but they are equivalent.

**Review by chenson2018 — APPROVED** [review]
I'm approving but disabling auto-merge, as I think the `open scoped` I mentioned in my last comment can be removed.

File: Cslib/Logics/LinearLogic/CLL/MLL.lean (hunk 8 above)
Comment (fmontesi) [reply Cslib/Logics/LinearLogic/CLL/MLL.lean]: Sorry, I saw it at the wrong line! Removed.
